US07906546B2
To a stirred solution of 60 mg (0.11 mmol) of (RS,SR)-2-(benzenesulfonyl-fluoro-methylcarbamoyl-methyl)-6-chloro-1,2,3,4-tetrahydro-carbazole-9-carboxylic acid tert-butyl ester in 3 mL THF was added on 7 mg NaH (60% in oil, 0.165 mmol, 1.5 eq) at 0° C. The reaction mixture was stirred for 40 minutes and then, 52 μL (0.22 mmol, 2 eq) 1-bromo-3-methyl-but-2-ene (1 mL in THF) was added and the reaction mixture was stirred for 2 hours at 0° C. and then overnight at RT. The solvent was evaporated. Then, 1 mL CH2Cl2 was added and after dissolution, 1 mL TFA and 1 mL CH2Cl2 were added at RT. The reaction mixture was stirred overnight. The solvent was then evaporated and purification by prep. HPLC gave 9 mg (19%) of (RS,SR)-2-benzenesulfonyl-2-(-6-chloro-2,3,4,9-tetrahydro-1H-carbazol-2-yl)-2-fluoro-N-methyl-N-(3-methyl-but-2-enyl)-acetamide as a white solid, MS: 503 (MH+).

reactant | (RS,SR)-2-(benzenesulfonyl-fluoro-methylcarbamoyl-methyl)-6-chloro-1,2,3,4-tetrahydro-carbazole-9-carboxylic acid tert-butyl ester | 0.11 mmol, 60 mg | C(C)(C)(C)OC(=O)N1C2=CC=C(C=C2C=2CCC(CC12)C(C(NC)=O)(F)S(=O)(=O)C1=CC=CC=C1)Cl | C26H28ClFN2O5S
reactant | NaH | 0.165 mmol, 7 mg, 1.5 eq | [H-].[Na+]
reactant | 1-bromo-3-methyl-but-2-ene | 0.22 mmol, 52 μL, 2 eq | BrCC=C(C)C | C5H9Br
reactant | THF | 3 mL | C1CCOC1 | C4H8O
product | (RS,SR)-2-benzenesulfonyl-2-(-6-chloro-2,3,4,9-tetrahydro-1H-carbazol-2-yl)-2-fluoro-N-methyl-N-(3-methyl-but-2-enyl)-acetamide | 9 mg, 19% | C1(=CC=CC=C1)S(=O)(=O)C(C(=O)N(CC=C(C)C)C)(F)C1CC=2NC3=CC=C(C=C3C2CC1)Cl | C26H28ClFN2O3S
